US07342083B2
Synthesis of cis-1,2-diacetamidoethylene
To a solution of imidazole (68 g, 1 mole) in ethyl acetate (1 L) in a 10-L container was added sodium bicarbonate (0.85 kg, 10 mole) and water (5 L) at ambient temperature. Under magnetic agitation, acetic anhydride (400 mL, 4.04 mole) was added dropwise over a course of 45 minutes. The resulting mixture was stirred overnight (12 hours). Then, the solid was filtered out, washed, and triturated (in 600 mL water) at 80° C. for 30 min. After filtration, the product was collected in 120 g (ca. 80%).

reactant | imidazole | 1 mole, 68 g | N1C=NC=C1 | C3H4N2
reactant | sodium bicarbonate | 10 mole, 0.85 kg | C([O-])(O)=O.[Na+]
reactant | water | 5 L | O | H2O
reactant | acetic anhydride | 4.04 mole, 400 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | 1 L | C(C)(=O)OCC | C4H8O2
product | cis-1,2-diacetamidoethylene | C(C)(=O)N\C=C/NC(C)=O | C6H10N2O2
